US05736556
(1R,2R,3S)-3-(3,4-Dichlorophenyl)tropane-2-aldoxime
To a solution of (1R,2R,3S)-2-formyl-3-(3,4-dichlorophenyl)tropane (6.9 g, 23 mmol) in methanol (100 ml), sodium carbonate (4 g) and hydroxylammonium chloride (2.6 g, 37 mmol) were added, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and the residue was triturated with water. A crude product was isolated by filtration and recrystallization first in a mixture of ethanol and water (1+1) and then in 99% ethanol yielded the title compound (mixture of syn/anti isomers--approximately 1+2) as white crystals, m.p. 230°-235° C.

reactant | (1R,2R,3S)-2-formyl-3-(3,4-dichlorophenyl)tropane | 23 mmol, 6.9 g | C(=O)[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C15H17Cl2NO
reactant | sodium carbonate | 4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylammonium chloride | 37 mmol, 2.6 g | [Cl-].O[NH3+]
solvent | methanol | 100 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (1R,2R,3S)-3-(3,4-Dichlorophenyl)tropane-2-aldoxime | ClC=1C=C(C=CC1Cl)[C@@H]1[C@H]([C@H]2CC[C@@H](C1)N2C)C=NO | C15H18Cl2N2O
